Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
amiodarone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion, fatigue

 
Major Surgical or Invasive Procedure:
___ - Redo sternotomy / Onyx 29 mm mechanical AVR / 34 mm CE 
mitral valve ring / TV 28 ___ ring  - cryomaze PVI, ___ 
ligation 

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of bicuspid 
aortic valve and aortic insufficnecy status post ___ 
in ___. His medical history is also significant for atrial 
fibrillation, congestive heart failure, hyperlipidemia, 
hypertension, mitral regurgitation, and pulmonary ypertension. 
He underwent a cardioversion for atrial fibrillation in ___ 
however he again developed atrial fibrillation and noted dyspnea 
on exertion with fatigue. An echocardiogram demonstrated 
cardiomyopathy with an estimated
ejection fraction of 30%, moderate to severe mitral 
regurgitation, and moderate aortic insufficiency. A cardiac 
catheterization revealed no coronary artery disease, mildly 
elevated right heart pressures, enlarged left ventricle with 
mitral regurgitation and aortic insufficiency. He was referred 
to
Dr. ___ surgical consultation.

 
Past Medical History:
Aortic Insufficiency
Atrial Fibrillation
Bicupsid Aortic Valve s/p ___
Cardiomyopathy
Colon Polyp < ___ years ago 
Heart Failure systolic and secondary to valvular disease Chronic
Hyperlipidemia, no longer on medical therapy
Hypertension
Mitral Regurgitation
Non-sustained ventricular tachycardia
Supraventricular tachycardia
Tonsillectomy
___ ___ at ___
Cardioversion ___
Cataract Left eye ___
Wisdom teeth removal 

 
Social History:
___
Family History:
No premature coronary artery disease

 
Physical Exam:
Vital Signs sheet entries for ___:
BP: 131/91. Heart Rate: 83. Resp. Rate: 12. O2 Saturation%: 98.
Height: 69 inches   Weight: 205 lbs discharge weigth 95Kg

General: Well-developed male in no acute distress
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X] JVD +/-
Chest: Lungs clear bilaterally [X] Well-healed MSI
Heart: RRR [] Irregular [X] Murmur [X] grade ___ ___
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+
[X]
Extremities: Warm [X], well-perfused [X] Edema [] _____
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit     Right: -   Left: -

 
Pertinent Results:
Conclusions  
Pre CPB

No spontaneous echo contrast is seen in the left atrial 
appendage. The left atrial appendage emptying velocity is 
depressed (<0.2m/s). 

The left ventricular cavity is severely dilated. Overall left 
ventricular systolic function is severely depressed (LVEF= 30 
%). [Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.] 

The right ventricular free wall is hypertrophied. The right 
ventricular cavity is dilated with normal free wall 
contractility. 

The diameters of aorta at the sinus, ascending and arch levels 
are normal. There are focal calcifications in the aortic arch. 
There are simple atheroma in the descending thoracic aorta. 

There are three aortic valve leaflets. An aortic valve 
prosthesis is present (Native Pulmonary Valve). There is no 
aortic valve stenosis. Moderate (2+) aortic regurgitation is 
seen. 

The mitral valve leaflets are mildly thickened. Moderate (2+) 
mitral regurgitation is seen. 

The tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen with an annulus of 48mm. 

A pulmonic valve prosthesis is present with mild-mod 
regurgitation. 

Dr. ___ was notified in person of the results in the OR 
during the procedure.

Post CPB

The patient separated from bypass on epineprhine, milrinone and 
phenylephrine infusions. With a cardiac ouput of 2.4 LPM. 

Tricuspid ring is well seated with trivial regurgitation. There 
is a well seated mitral valve ring in good position with no 
residual MR and a peak gradient of 9mmHg. There is a mechanical 
Aortic Valve prosthesis which is well seated with no 
perivalvular leak. Peak gradient of 22 and mean of 11. 

The LVEF is unchanged from prior at 30%. There is no sign of 
aortic injury or dissection.   
   
___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 4:09 
___ 
 
  
___ ___ 4:09 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: r/o inf, eff  
 
Final Report 
INDICATION:  ___ year old man with redo AVR/MVrep  // r/o inf, 
eff 
  
EXAMINATION:  CHEST (PA AND LAT) 
  
TECHNIQUE:   Chest radiograph, PA and lateral views 
  
COMPARISON:  Chest radiograph ___ 08:24 
  
FINDINGS:  
  
There is opacity at the right lung base, new since 8 hr prior, 
which may be from aspiration. There is mild atelectasis of left 
lung base, improved from 8 hr prior. There are small bilateral 
pleural effusions. Right internal jugular venous line terminates 
in right atrium.  3 prosthetic heart valves and sternotomy wires 
are again noted. Cardiomediastinal silhouette is unchanged. 
  
IMPRESSION:  
  
Right lung base opacity is new since 8 hr prior and may be from 
aspiration. 
There are small bilateral pleural effusions. 
 
.

___ 03:02AM BLOOD WBC-8.8 RBC-3.28* Hgb-9.2* Hct-29.0* 
MCV-89 MCH-28.1 MCHC-31.8 RDW-15.4 Plt ___
___ 10:15AM BLOOD ___
___ 05:30AM BLOOD ___ PTT-79.3* ___
___ 03:02AM BLOOD ___ PTT-69.3* ___
___ 10:15AM BLOOD Na-132* K-5.1 Cl-97
___ 03:02AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.4
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for surgical 
management of his heart disease. He was placed on heparin as he 
had been off Coumadin for 5 days. He was worked-up in the usual 
preoperative manner. On ___ he was taken to the operating 
room where he underwent a redo sternotomy, mechanical aortic 
valve replacement, mitral valve repair and Maze procedure. 
Please see operative note for details. Postoperatively he was 
taken to the intensive care unit for further monitoring. He was 
acidotic and vasoplegic out of the OR on Epinephrine, Levophed 
and Milrinone, with high volume requirements and higher vent 
support. Over the next 2 days, he was weaned off all vasoactive 
medications and inotropes and extubated on POD2 without 
incidence. Platelets had dropped and Hit AB came back as 
positive. Swan was changed to Heparin free, he was started on 
Argatroban and Hematology was consulted. Coumadin was held until 
platelets increased to greater than 150. SRA was resulted as 
negative and patient was changed from  Argatroban to Heparin and 
bridged with Heparin until INR>2.0. The patient remained 
neurologically intact and hemodynamically stable. Beta blocker 
was initiated and the patient was started on a Lasix drip for 
diuresis. The patient was transferred to the telemetry floor for 
further recovery. Chest tubes and pacing wires were discontinued 
without complication. Lasix was changed to bolus dosing. He 
continues to be fluid overloaded and will continue to need 
diureses at home. His potassium is hight nornmal and is being 
discharged on daily potassium  only, a potassium level will need 
to be cheched on ___. The patient was evaluated by the 
physical therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 11 the patient was 
ambulating freely, his wounds were healing and pain was 
controlled with oral analgesics.  The patient was discharged to 
home in good condition with appropriate follow up instructions.

 
Medications on Admission:
Amoxicillin 500 mg tablet x 4 one hour before dental procedures
Aspirin 81 mg qpm 
Coumadin 5 mg sun, tues, wed, thrus, fri, 2.5 mg on sat and mon
Coumadin is managed by Dr ___ 
___ 40 mg BID 
Losartan 50 mg tablet twice a day last dose ___
Toprol XL 50 mg qam and 25 mg qpm 
Probiotics 
Triphala Gold ___ mg daily 
DRibose 1500 mg ___ x daily 
Arjuna Gold 500 mg daily 
CQ10 200 mg BID 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Warfarin 5 mg PO ONCE Duration: 1 Dose 
3. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
4. Losartan Potassium 25 mg PO BID 
5. Carvedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1
6. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q 3hrs 
Disp #*60 Tablet Refills:*0
7. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*10 Tablet Refills:*0
8. Ranitidine 150 mg PO DAILY Duration: 1 Month 
RX *ranitidine HCl [Zantac] 150 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
9. Furosemide 40 mg PO BID Duration: 10 Days 
then decrease to 40mg daily for one week 
RX *furosemide [Lasix] 40 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0
10. Warfarin 5 mg PO DAILY16 
take as directed by MD 
RX *warfarin 5 mg daily as direceted tablet(s) by mouth daily as 
directed Disp #*60 Tablet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Aortic Insufficiency
Atrial Fibrillation
Bicupsid Aortic Valve s/p ___
Cardiomyopathy
Colon Polyp < ___ years ago 
Heart Failure systolic and secondary to valvular disease Chronic
Hyperlipidemia, no longer on medical therapy
Hypertension
Mitral Regurgitation
Non-sustained ventricular tachycardia
Supraventricular tachycardia

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with 
Incisions: 
Sternal - healing well, no erythema or drainage 
right groin CDI sterri strips
Edema +1

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
5) No lifting more than 10 pounds for 10 weeks
6) Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___